US05428046
a) 4-n-Butoxybenzenesulfonamide
100 ml of methanolic ammonia solution were added dropwise to 10 g of 4-n-butoxybenzenesulfonyl chloride, while cooling with ice. After the mixture had been stirred at 20° C. for 1/2 hour, water was added, the mixture was acidified to pH 1 to 2 and the product was filtered off with suction, melting point 99° to 101° C.

reactant | ammonia | 100 ml | N | H3N
reactant | 4-n-butoxybenzenesulfonyl chloride | 10 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
solvent | water | O | H2O
product | 4-n-Butoxybenzenesulfonamide | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N | C10H15NO3S
